US09079866B2
tert-Butyl 3-[({3-[4-(5-aminopyrazin-2-yl)-3-fluorophenyl]pyridin-2-yl}oxy)methyl]pyrrolidine-1-carboxylate
The title compound was prepared using methods analogous to those described in Example 369 using tert-butyl 3-(((3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine-2-yl)oxy)methyl)pyrrolidine-1-carboxylate and 5-(4-bromo-2-fluorophenyl)pyrazin-2-amine in Step B. MS (ESI): mass calcd. for C25H28FN5O3, 465.22; m/z found, 466.2 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 8.63-8.58 (m, 1H), 8.18-8.09 (m, 2H), 8.03-7.94 (m, 1H), 7.73-7.64 (m, 1H), 7.48-7.36 (m, 2H), 7.05-6.96 (m, 1H), 4.70 (s, 2H), 4.47-4.22 (m, 2H), 3.68-3.26 (m, 3H), 3.25-3.09 (m, 1H), 2.77-2.60 (m, 1H), 2.14-1.98 (m, 1H), 1.84-1.68 (m, 1H), 1.44 (s, 9H).

reactant | tert-butyl 3-(((3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine-2-yl)oxy)methyl)pyrrolidine-1-carboxylate | CC1(OB(OC1(C)C)C=1C(=NC=CC1)OCC1CN(CC1)C(=O)OC(C)(C)C)C | C21H33BN2O5
reactant | 5-(4-bromo-2-fluorophenyl)pyrazin-2-amine | BrC1=CC(=C(C=C1)C=1N=CC(=NC1)N)F | C10H7BrFN3
product | tert-Butyl 3-[({3-[4-(5-aminopyrazin-2-yl)-3-fluorophenyl]pyridin-2-yl}oxy)methyl]pyrrolidine-1-carboxylate | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C=1C(=NC=CC1)OCC1CN(CC1)C(=O)OC(C)(C)C)F | C25H28FN5O3
